US08211908B2
To a solution of 0.54 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(2-methoxy-7-oxopyrido(2,3-d)pyrimidin-8(7H)-yl)ethyl)piperidin-4-yl)carbamate in 15 mL of dichloromethane, 5 mL of trifluoroacetic acid was added, and the mixture was stirred at room temperature for 2 hours. A 2 mol/L aqueous sodium hydroxide solution was added under cooling with ice to adjust pH at 13, dichloromethane was added thereto, the organic layer was separated, and the aqueous layer was extracted with dichloromethane. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=10:1 to obtain 0.34 g of 8-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-2-methoxypyrido(2,3-d)pyrimidin-7(8H)-one as a yellow oily substance.

reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(2-methoxy-7-oxopyrido(2,3-d)pyrimidin-8(7H)-yl)ethyl)piperidin-4-yl)carbamate | 0.54 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=C2N=C(N=C1)OC)=O | C28H36N6O6
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 8-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-2-methoxypyrido(2,3-d)pyrimidin-7(8H)-one | 0.34 g | O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=C2N=C(N=C1)OC)=O | C23H28N6O4
